US05093370
1,4-Bis(6-triethylammoniohexyl)benzene diiodide
First, 300 mg of 1,4-bis(6-diethylaminohexyl)benzene were dissolved in 3 ml of absolute ethanol, and after adding 616 μl of ethyl iodide, the mixture was stirred at a room temperature for 30 minutes, refluxed for 1.5 hours, and then cooled. The mixture was evaporated under a reduced pressure, and after adding 3 ml of acetone, evaporated under a reduced pressure. The residue was dissolved in 1.5 ml of acetone, and the solution was allowed to stand in a freezer for 2 days. The resulting crystal was collected by filtration, washed with ethyl acetate and dried under a reduced pressure to obtain 490 mg of the title compound as a colorless crystal.

reactant | 1,4-bis(6-diethylaminohexyl)benzene | 300 mg | C(C)N(CCCCCCC1=CC=C(C=C1)CCCCCCN(CC)CC)CC | C26H48N2
reactant | ethyl iodide | 616 μl | C(C)I | C2H5I
reactant | ethanol | 3 ml | C(C)O | C2H6O
product | 1,4-Bis(6-triethylammoniohexyl)benzene diiodide | 490 mg | [I-].[I-].C(C)[N+](CCCCCCC1=CC=C(C=C1)CCCCCC[N+](CC)(CC)CC)(CC)CC | InChI=1S/C30H58N2.2HI/c1-7-31(8-2,9-3)27-19-15-13-17-21-29-23-25-30(26-24-29)22-18-14-16-20-28-32(10-4,11-5)12-6;;/h23-26H,7-22,27-28H2,1-6H3;2*1H/q+2;;/p-2
